US08138181B2
8-((trans)-1-ethyl-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline
Prepared from 8-((trans)-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline according to the procedure for Example 29, using acetaldehyde in place of formaldehyde. MS APCI (+) m/z 465.1 (M+1) detected.

reactant | 8-((trans)-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline | F[C@@H]1CNCC[C@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC | C24H25FN4O3
reactant | acetaldehyde | C(C)=O | C2H4O
product | 8-((trans)-1-ethyl-3-fluoropiperidin-4-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline | C(C)N1C[C@H]([C@@H](CC1)OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)F | C26H29FN4O3
